US05891909
g) Ethyl 6-[3-benzyloxy-5-methylphenyl-(2-trifluoromethylphenyl)sulfonylamino]hexanoate
3-Benzyloxy-5-methyl-1-(2-trifluoromethylphenylsulfonylamino)benzene (550 mg, 1.3 mmol), as prepared in the preceding step, ethyl 6-bromohexanoate (290 mg, 1.3 mmol), and K2CO3 (1.0 g) were mixed in N,N-dimethylformamide (10 mL). The mixture was heated to 60° C. and stirred for 12 h. The solid was removed by filtration, and the filtrate was evaporated under high vacuum. The residue was dissolved in ethyl acetate (100 mL), washed with saturated aqueous NaHCO3 (2×50 mL) and brine (2×50 mL), and dried over Na2SO4. The solvent was evaporated in vacuo to give the title compound as a pale red oil (735 mg, 100%) which was directly used for the next step. 1H-NMR (300 MHz, CDCl3) δ 7.85 (d, J=7.7 Hz, 1 H), 7.71 (d, J=7.8 Hz, 1 H), 7.60 (t, J=7.7 Hz, 1 H), 7.47 (t, J=7.7 Hz, 1 H), 7.37 (m, 5 H), 6.71 (s, 1 H), 6.53 (s, 1 H), 6.51 (s, 1 H), 4.95 (s,2H), 4.11 (q, J=7.1 Hz, 2 H),3.66(t,J=7.0 Hz, 2 H), 2.25 (t, J=7.4 Hz, 2 H), 2.23 (s, 3 H), 1.33-1.62 (m, 6 H), 1.24 (t, J=7.1 Hz, 3 H).

reactant | 3-Benzyloxy-5-methyl-1-(2-trifluoromethylphenylsulfonylamino)benzene | 1.3 mmol, 550 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)NS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C21H18F3NO3S
reactant | ethyl 6-bromohexanoate | 1.3 mmol, 290 mg | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | K2CO3 | 1.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Ethyl 6-[3-benzyloxy-5-methylphenyl-(2-trifluoromethylphenyl)sulfonylamino]hexanoate | 735 mg, 100% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)N(CCCCCC(=O)OCC)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C29H32F3NO5S
